US05132310
rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-[(2-pyridinyl)ethynyl]2H-1-benzopyran-6-ol.
This compound was prepared by reacting rac-3,4-dihydro2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 2-bromopyridine as described in Example 14. The compound was isolated by chromatography as in Example 14 and was crystallized from ethyl acetate to give colorless crystals with m.p. 179°-181° C.

reactant | rac-3,4-dihydro2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-[(2-pyridinyl)ethynyl]2H-1-benzopyran-6-ol | CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C#CC2=NC=CC=C2 | C20H21NO2
